US08735384B2
TsOH (0.109 g, 0.572 mmol) was added to a solution of (2-(2-(tert-butylamino)-3-(1,5-dihydroxypentyl)quinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone (0.070 g, 0.143 mmol) in toluene (2.0 mL) and the reaction was refluxed for 1.5 h. The reaction was concentrated and diluted with 10% sodium carbonate and extracted with dichloromethane. The combined organic extracts were washed with saturated sodium chloride, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material which was purified by silica gel chromatography by eluting with 100% EtOAc followed by 1:20 2M NH3 in MeOH/dichloromethane, to provide (2-(2-amino-3-(tetrahydro-2H-pyran-2-yl)quinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone. MS (ESI, pos. ion) m/z: 416 (M+1).

reactant | TsOH | 0.572 mmol, 0.109 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | (2-(2-(tert-butylamino)-3-(1,5-dihydroxypentyl)quinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone | 0.143 mmol, 0.070 g | C(C)(C)(C)NC1=NC2=CC=C(C=C2C=C1C(CCCCO)O)C1=C(C=CC=C1C)C(=O)N1CCCC1 | C30H39N3O3
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | (2-(2-amino-3-(tetrahydro-2H-pyran-2-yl)quinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone | NC1=NC2=CC=C(C=C2C=C1C1OCCCC1)C1=C(C=CC=C1C)C(=O)N1CCCC1 | C26H29N3O2
